US08492378B2
2-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]pyridine
A solution of 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole (279 mg, 1.00 mmol), 2-(tri-n-butylstannyl)pyridine (0.384 mL, 1.20 mmol) and tetrakis(triphenylphosphine)palladium(0) (34.7 mg, 0.0300 mmol) in tetrahydrofuran (5 mL) was heated under reflux under an argon atmosphere for 85 hr. After cooling, the reaction mixture was concentrated under reduced pressure, and the residue was purified by basic silica gel column chromatography (hexane/tetrahydrofuran=1/1) and recrystallized from hexane/tetrahydrofuran to give the title compound (113 mg, yield 41%) as colorless crystals.

reactant | 2-(3-bromo-1-benzofuran-5-yl)-5-methyl-1,3,4-oxadiazole | 1.00 mmol, 279 mg | BrC1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C11H7BrN2O2
reactant | 2-(tri-n-butylstannyl)pyridine | 1.20 mmol, 0.384 mL | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0300 mmol, 34.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]pyridine | 113 mg, yield 41% | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=NC=CC=C2)C1 | C16H11N3O2
